US06177422B1
A mixture of 3-oxo-dihydro-2H-benzo[1,4]oxazine-7-carbaldehyde (0.5 g, 2.8 mmol), 1-(4-methyl-phenyl)-piperazine (0.5 g, 2.8 mmol), acetic acid (0.17 g, 2.8 mmol) and sodium triacetoxyborohydride (1.2 g, 5.9 mmol) in 20 mL of 1,2-dichloroethane is stirred at room temperature for 3 hours. The reaction is quenched with 50 mL of water, and the layers are separated. The aqueous phase is extracted with ethyl acetate (3×50 mL). The organic phases are combined and dried over sodium sulfate. Evaporation of the solvent gives a solid which is recrystallized twice from acetonitrile to give 0.31 g (33% yield) of 7-[4-(4-methyl-phenyl)-piperazin-1-ylmethyl]-4H-benzo[1,4]oxazine-3-one; mp 208-210° C.

reactant | 3-oxo-dihydro-2H-benzo[1,4]oxazine-7-carbaldehyde | 2.8 mmol, 0.5 g | O=C1COC=2C(N1)CC=C(C2)C=O | C9H9NO3
reactant | 1-(4-methyl-phenyl)-piperazine | 2.8 mmol, 0.5 g | CC1=CC=C(C=C1)N1CCNCC1 | C11H16N2
reactant | acetic acid | 2.8 mmol, 0.17 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 5.9 mmol, 1.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 7-[4-(4-methyl-phenyl)-piperazin-1-ylmethyl]-4H-benzo[1,4]oxazine-3-one | 0.31 g, 33% yield | CC1=CC=C(C=C1)N1CCN(CC1)CC1=CC2=C(NC(CO2)=O)C=C1 | C20H23N3O2
